US06967197B2
To chlorosulfonylisocyanate (10.3 g) was added t-butyl alcohol (6.96 ml) in dichloromethane (30 ml) under ice-water cooling and the mixture was stirred at ambient temperature for 0.5 hour. The solution was added into a mixture of N-hydroxysuccinimide (8.38 g) and pyridine (6.47 ml) in dichloromethane (150 ml) under ice-water cooling and the mixture was stirred at 0° C. for 1 hour. The solution was washed with 0.1N hydrochloric acid, water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of chloroform and methanol (200:1, 100:1, 200:3, 50:1) to give N-(t-butoxycarbonylamino-sulfonyloxy)succinimide as colorless oil (2.93 g).

reactant | chlorosulfonylisocyanate | 10.3 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | t-butyl alcohol | 6.96 ml | C(C)(C)(C)O | C4H10O
reactant | N-hydroxysuccinimide | 8.38 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | pyridine | 6.47 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | N-(t-butoxycarbonylamino-sulfonyloxy)succinimide | 2.93 g | C(C)(C)(C)OC(=O)NS(=O)(=O)ON1C(CCC1=O)=O | C9H14N2O7S
